US09399646B2
Step 2: (E)-2-(4-((E)-1-(1H-Indazol-5-yl)-2-phenylbut-1-en-1-yl)phenyl)ethenesulfonamide
A mixture of (E)-5-(1-(4-bromophenyl)-2-phenylbut-1-en-1-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole (0.1 g, 0.25 mmol), ethenesulfonamide (80 mg, 0.74 mmol), Pd(Ph3P)2Cl2 (18 mg, 0.025 mmol), triethylamine (0.25 g, 2.5 mmol) in DMF (1.25 mL) was degassed with 3 vacuum/nitrogen cycles, heated at 100° C. overnight, and then cooled to room temperature. The reaction mixture was diluted with water, extracted with EtOAc, washed with water, brine, dried over sodium sulfate, and filtered. The filtrate was concentrated down to give a residue that was redissolved in EtOH (2.5 ml). HCl (0.5 mL, 1.25 N HCl in ethanol) was added, and the mixture was heated at 80° C. for 1 h, diluted with water, and then extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water, brine, dried over sodium sulfate, filtered, and concentrated to give the crude product. This crude material was purified on a RP-C18 column using 30-100% acetonitrile in water in the presence of 0.1% TFA to afford the title compound. LCMS: 430 (M+H)+.

reactant | (E)-5-(1-(4-bromophenyl)-2-phenylbut-1-en-1-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | 0.25 mmol, 0.1 g | BrC1=CC=C(C=C1)/C(=C(/CC)\C1=CC=CC=C1)/C=1C=C2C=NN(C2=CC1)C1OCCCC1 | C28H27BrN2O
reactant | ethenesulfonamide | 0.74 mmol, 80 mg | C(=C)S(=O)(=O)N | C2H5NO2S
reactant | triethylamine | 2.5 mmol, 0.25 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 1.25 N, 0.5 mL | Cl | ClH
solvent | DMF | 1.25 mL | CN(C)C=O | C3H7NO
solvent | EtOH | 2.5 ml | CCO | C2H6O
solvent | water | O | H2O
catalyst | Pd(Ph3P)2Cl2 | 0.025 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (E)-2-(4-((E)-1-(1H-Indazol-5-yl)-2-phenylbut-1-en-1-yl)phenyl)ethenesulfonamide | N1N=CC2=CC(=CC=C12)\C(=C(/CC)\C1=CC=CC=C1)\C1=CC=C(C=C1)/C=C/S(=O)(=O)N | C25H23N3O2S
